US05124455
A) 1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-phenyl ethan-1-ol
To a magnetically-stirred solution of freshly crushed magnesium turnings (36.54 mmol, 0.888 g) in anhydrous ethyl ether (20 mL) at room temperature is added a solution of benzyl bromide (36.54 mmol, 4.35 mL) in anhydrous ethyl ether (15 mL) dropwise via addition funnel. The addition is slow at first; only 2 to 3 mL of reagent is added and the reaction mixture is heated until gas evolution is observed. Dropwise addition of benzyl bromide is begun at this point, and the reaction mixture is diluted with ethyl ether (20 mL) to prevent dimerization of the Grignard reagent. Once the addition of benzyl bromide is complete, the reaction is allowed to stir at room temperature for 1 hour and then a solution of 3-cyclopentyloxy-4-methoxybenzaldehyde (30.00 mmol, 6.61 g) in anhydrous ethyl ether (30 mL) is added dropwise at room temperature. The reaction mixture is allowed to stir at room temperature for 30 minutes and then poured into a solution of ice water (500 mL) containing concentrated H2SO4 (7 mL). The aqueous mixture is extracted with ethyl acetate (2×300 mL) and the combined organic layers are washed with saturated NaHCO3 (300 mL). The organic layer is dried (Na2SO4) and concentrated in vacuo to afford the title compound as a white solid (25.97 mmol, 8.06 g; 86%) of sufficient purity to be used directly in subsequent transformation.

reactant | magnesium | 36.54 mmol, 0.888 g | [Mg] | Mg
reactant | benzyl bromide | 36.54 mmol, 4.35 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-cyclopentyloxy-4-methoxybenzaldehyde | 30.00 mmol, 6.61 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | H2SO4 | 7 mL | OS(=O)(=O)O | H2O4S
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
product | 1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-phenyl ethan-1-ol | 25.97 mmol, 8.06 g, 86% | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=CC=CC=C1)O | C20H24O3
